US06716856B1
Preparation of 7-Bromo-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole.
A mixture of 1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole (0.25 g, 0.98 mmol), prepared as described in example 3, and N-bromosuccinimide (0.180 g, 0.98 mmol) in chloroform (6 ml) was stirred at 60° C. for about 4 hours and then washed with water. The organic phase was dried over sodium sulfate and evaporated to dryness. The residue was chromatographed on silica gel (cyclohexane:ethyl acetate=90:10). The title compound was obtained as a colourless solid (0.28 g, 85%): m.p 160-161° C.

reactant | 1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | 0.98 mmol, 0.25 g | N1=C(C=CC=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C | C15H17N3O
reactant | N-bromosuccinimide | 0.98 mmol, 0.180 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Bromo-1-(2-pyridyl)-3,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindazole | BrC1C(CC(C=2C(=NN(C12)C1=NC=CC=C1)C)=O)(C)C | C15H16BrN3O
